US08623859B2
N-{4-[(3-Methoxyazetidin-1-yl)methyl]benzyl}-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-1,3,4-oxadiazole-2-carboxamide
The title compound was prepared according to general procedure AT using methyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-oxadiazole-2-carboxylate (30 mg, 0.08 mmol), 1-{4-[(3-methoxyazetidin-1-yl)methyl]phenyl}-N-methylmethanamine (30 mg, 0.14 mmol) and trimethylaluminium (2 M in toluene, 0.08 mL) in DCE (5 mL). A portion of the crude product was purified using prep method D to afford the title compound.

reactant | methyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-oxadiazole-2-carboxylate | 0.08 mmol, 30 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=NN=C(O1)C(=O)OC)C | C15H19N3O6S
reactant | 1-{4-[(3-methoxyazetidin-1-yl)methyl]phenyl}-N-methylmethanamine | 0.14 mmol, 30 mg | COC1CN(C1)CC1=CC=C(C=C1)CNC | C13H20N2O
reactant | trimethylaluminium | 2 M, 0.08 mL | C[Al](C)C
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | N-{4-[(3-Methoxyazetidin-1-yl)methyl]benzyl}-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-1,3,4-oxadiazole-2-carboxamide | COC1CN(C1)CC1=CC=C(CN(C(=O)C=2OC(=NN2)CN(C)S(=O)(=O)C2=C(C=C(C=C2C)OC)C)C)C=C1 | C27H35N5O6S
